US08193394B2
4-(4-hydroxyphenyl)-7-methoxy-3-phenyl-1,2-dihydronaphthalene (common intermediate: 7 of nafoxidine and lasofoxifene)
Potassium tert-butoxide solution 0.5 mol/L in dimethyl sulfoxide (1.10 mL, 0.55 mmol) was added to and dissolved in 2-iodo-7-methoxy-3-phenyl-4-(4-pivaloyloxyphenyl)-1,2,3,4-tetrahydronaphthalene (5′, 74.4 mg, 0.138 mmol) under an argon atmosphere, and the resulting aubergine solution was stirred for 1 hour while heating at 90° C. Thereafter, the reaction mixture was cooled with ice, and then a saturated aqueous ammonium chloride solution (7 mL) was added thereto and sufficiently stirred, followed by extracting four times with a mixed liquid (4 mL) of hexane/diethyl ether (1:1). An organic layer was collected, followed by drying with anhydrous magnesium sulfate and concentration thereof. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain the title compound (7, 41.1 mg, yield 89%), the same as that of Example 4.

reactant | Potassium tert-butoxide | 0.5 mol/L | CC(C)([O-])C.[K+]
reactant | dimethyl sulfoxide | 0.55 mmol, 1.10 mL | CS(=O)C | C2H6OS
reactant | ammonium chloride | 7 mL | [Cl-].[NH4+]
reactant | 2-iodo-7-methoxy-3-phenyl-4-(4-pivaloyloxyphenyl)-1,2,3,4-tetrahydronaphthalene | IC1CC2=CC(=CC=C2C(C1C1=CC=CC=C1)C1=CC=C(C=C1)OC(C(C)(C)C)=O)OC | C28H29IO3
product | 4-(4-hydroxyphenyl)-7-methoxy-3-phenyl-1,2-dihydronaphthalene | 41.1 mg, yield 89% | OC1=CC=C(C=C1)C1=C(CCC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C23H20O2
